US04132847
Preparation of 2-formyl-6-methyl-3-(5-carboethoxypentyloxy)-4-pyrone
To a solution of 4.25 g of 2-hydroxymethyl-6-methyl-3-(5-carboethoxypentyloxy)-4-pyrone in 110 ml of acetonitrile was added 12 g of activated manganese dioxide. The resulting suspension was stirred for 3 hr, at which time the mixture was filtered and the filtrate evaporated to an oil, 2-formyl-6-methyl-3-(5-carboethoxypentyloxy)-4-pyrone, weighing 4.0 g (94%). NMR (CDCl3): δ1.23 (3H, t, J = 7 Hz), 2.36 (3H, s), 6.32 (1H, s).

reactant | 2-hydroxymethyl-6-methyl-3-(5-carboethoxypentyloxy)-4-pyrone | 4.25 g | OCC=1OC(=CC(C1OCCCCCC(=O)OCC)=O)C | C15H22O6
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
catalyst | manganese dioxide | 12 g | [O-2].[O-2].[Mn+4]
product | 2-formyl-6-methyl-3-(5-carboethoxypentyloxy)-4-pyrone | C(=O)C=1OC(=CC(C1OCCCCCC(=O)OCC)=O)C | C15H20O6
